US05163996
102 ml of 30% hydrogen peroxide solution are added dropwise at a temperature of +10° C. to a solution of 219 g of 2-benzylthiophenylsulfonamide obtained in accordance with Example P1 in 500 ml of concentrated acetic acid. The reaction mixture is then stirred for 5 hours at a temperature of +25° C., the product slowly crystallising out. After separating off the crystals, washing with water and drying, 219 g (94.6%) of 2-benzylsulfinylphenylsulfonamide are obtained in the form of colour less crystals having a melting point of from +206° to ÷209° C.

reactant | hydrogen peroxide | 102 ml | OO | H2O2
reactant | 2-benzylthiophenylsulfonamide | 219 g | C(C1=CC=CC=C1)SC1=C(C=CC=C1)S(=O)(=O)N | C13H13NO2S2
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
product | 2-benzylsulfinylphenylsulfonamide | 219 g, 94.6% | C(C1=CC=CC=C1)S(=O)C1=C(C=CC=C1)S(=O)(=O)N | C13H13NO3S2
